US07417047B2
Preparation of 2-Amino-5-[5-[(diethylamino)methyl]-1-(2-fluoroethyl)-1H-pyrrol-3-yl]-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
To a glass tube was added methanol (0.5 mL), 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-(2-fluoroethyl)-1H-pyrrole-2-carbaldehyde (0.05 g; 0.12 mmol), diethylamine (43 μL; 0.41 mmol), and 1.8 mL of a methanolic solution of ZnCl2 (0.1 M), and NaBH3CN (0.2 M). The mixture was stirred 24 hours at room temperature. The solvent was evaporated and the residue was dissolved in chloroform, washed with 0.1 N NaOH solution, dried over MgSO4, and evaporated to give the title compound as an amorphous white solid, 0.021 g (37% yield), mp 121-140° C.; MS (ES) m/z 479.2, [M−H]−.

reactant | 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-(2-fluoroethyl)-1H-pyrrole-2-carbaldehyde | 0.12 mmol, 0.05 g | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CCF)C=O)=O)C | C22H19F2N5O2
reactant | diethylamine | 0.41 mmol, 43 μL | C(C)NCC | C4H11N
reactant | NaBH3CN | 0.2 M | [BH3-]C#N.[Na+]
catalyst | ZnCl2 | 0.1 M | [Cl-].[Cl-].[Zn+2]
solvent | methanol | 0.5 mL | CO | CH4O
product | 2-Amino-5-[5-[(diethylamino)methyl]-1-(2-fluoroethyl)-1H-pyrrol-3-yl]-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 37% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C1=CN(C(=C1)CN(CC)CC)CCF | C26H30F2N6O
